US07087598B2
Step D: Preparation of N-(2-chlorophenyl)-2,2,2-trifluoroethanehydrazonic acid
To a solution of 2-chlorophenylhydrazine (1.65 g, 11.6 mmol) in tetrahydrofuran (40 mL) at 0° C. was added trifluoroacetic anhydride (1.8 mL, 12.8 mmol). The mixture was allowed to warm gradually to ambient temperature and stirred overnight. The mixture was concentrated, re-dissolved in ethyl ether and twice washed with a saturated solution of NaHCO3. The mixture was dried (MgSO4) and concentrated to give the title compound of Step D as a pale orange solid (2.77 g).

reactant | 2-chlorophenylhydrazine | 11.6 mmol, 1.65 g | ClC1=C(C=CC=C1)NN | C6H7ClN2
reactant | trifluoroacetic anhydride | 12.8 mmol, 1.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | N-(2-chlorophenyl)-2,2,2-trifluoroethanehydrazonic acid | 2.77 g | ClC1=C(C=CC=C1)NN=C(C(F)(F)F)O | C8H6ClF3N2O
